* INA195
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: INA195
* Date: 08JUL2011
* Model Type: ALL IN ONE
* Simulator: TINA
* Simulator Version: 9.1.30.94 SF-TI
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS307F –MAY 2004–REVISED FEBRUARY 2010
*
* Model Version: 1.0
*
*****************************************************************************
* 
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* BEGIN MODEL INA195
*
* BEGIN MODEL FEATURES
*
* GAIN, BANDWITH, AND RISETIME
* CMRR VS FREQUENCY
* PSRR VS FREQUENCY
* VOLTAGE NOISE
* OUTPUT CURRENT LIMIT
* CURRENT LIMIT VS SUPPLY VOLT
* OUTPUT CURRENT THRU RAILS
* QUIESCENT CURRENT
* QUIESCENT CURRENT VS VOUT
* LOW INPUT BIAS CURRENT
* INPUT COMMON MODE VOLTAGE RANGE
* OUTPUT VOLTAGE SWING VS IO
* OUTPUT IMPEDANCE
* SETTLING TO ONE PERCENT
* MODEL TEMP RANGE -40 TO 125 C
* NOTE THAT NOT ALL MODEL PARAMETERS
* TRACK THE DATASHEET VERSUS TEMP
* END MODEL FEATURES
*
* PINOUT ORDER OUT GND VIN+ VIN- V+
* PINOUT ORDER  1   2   3    4    5
*****************************************************************************
.SUBCKT INA195 1 2 3 4 5
Q21 6 7 2 QNL
R77 8 9 2
R78 10 9 2
R79 7 11 100
R80 12 13 100
R81 13 5 30
R82 2 11 20
R83 14 15 500
R84 16 17 30
R85 2 18 20
D21 19 5 DD
D22 2 19 DD
E26 17 2 5 2 1
E28 20 2 17 2 1
R86 20 21 1E6
R89 2 21 100
C29 20 21 500E-12
E33 22 23 21 2 -0.07
E34 24 2 17 2 0.5E-6
D27 25 17 DD
D28 26 14 DD
M24 27 28 11 11 NOUT L=3U W=20U
M25 29 30 13 13 POUT L=3U W=200U
M26 31 31 16 16 POUT L=3U W=200U
M27 32 33 8 8 HVP L=3U W=600U
M28 34 35 10 10 HVP L=3U W=600U
M29 36 36 18 18 NOUT L=3U W=20U
R94 37 30 100
R95 38 28 100
G14 14 24 39 24 0.2E-3
R96 24 14 7.23E6
C32 15 40 110E-12
R97 2 32 2.05E3
R98 2 34 2.05E3
C33 32 34 10P
C36 19 2 1E-12
D29 28 6 DD
D30 41 30 DD
Q22 41 12 17 QPL
V27 22 33 -0.3M
M30 42 33 43 43 HVN L=3U W=600U
R99 44 43 2
M31 45 35 46 46 HVN L=3U W=600U
R100 44 46 2
R101 42 17 2.05E3
R102 45 17 2.05E3
C37 42 45 10P
M32 47 48 49 49 PIN L=6U W=500U
M33 9 50 17 17 PIN L=6U W=500U
V29 17 48 1.9
M34 44 47 2 2 NIN L=6U W=500U
M35 47 47 2 2 NIN L=6U W=500U
G15 14 24 51 24 0.2E-3
I28 31 36 80E-6
M36 50 50 17 17 PIN L=6U W=500U
I29 50 2 400E-6
R103 19 29 40
R104 27 19 50
J5 17 22 17 JNC
J6 17 35 17 JNC
J7 35 2 35 JNC
J8 22 2 22 JNC
E37 52 24 45 42 1
R105 52 51 10E3
C39 51 24 22E-12
E38 53 24 34 32 1
R106 53 39 10E3
C40 39 24 22E-12
G16 54 24 14 24 -1E-3
G17 24 55 14 24 1E-3
G18 24 56 36 2 1M
G19 57 24 17 31 1E-3
D33 57 54 DD
D34 55 56 DD
R107 54 57 100E6
R108 56 55 100E6
R109 57 17 1E3
R110 2 56 1E3
E39 17 37 17 57 1
E40 38 2 56 2 1
R111 55 24 1E6
R112 56 24 1E6
R113 24 57 1E6
R114 24 54 1E6
R115 2 5 1E6
G20 5 2 58 2 -290E-6
I32 2 59 1E-3
D35 59 2 DD
V31 59 58 0.71
R116 2 58 1E6
I33 5 2 230E-6
R117 49 9 6.5E3
R123 2 60 166.67E3
R124 35 19 40E3
C44 60 2 6E-12
E41 23 2 60 2 1
R127 2 35 20E3
C45 35 19 6E-12
R129 61 62 5E3
R130 63 64 5E3
G23 62 60 62 64 0.1E-3
G24 64 60 62 64 0.1E-3
R131 65 66 1E3
R132 66 67 1E3
E43 67 2 4 2 1
E44 65 2 3 2 1
M38 60 68 2 2 NCN L=6U W=20U
M39 60 66 2 2 NCP L=6U W=20U
E45 68 2 66 2 -1
E46 61 3 69 2 1
E47 63 4 69 2 -1
R133 2 69 21.5E3
C46 69 2 1E-12
G26 60 2 70 2 0.2E-6
R135 68 70 1E4
R136 2 70 10
C47 68 70 50E-9
E48 26 2 17 2 -0.4
E49 40 2 19 2 1
V34 25 14 -3
R137 19 1 1.35
R138 2 19 20E3
R139 2 1 1E6    
.MODEL DD D
.MODEL QNL NPN
.MODEL QPL PNP
.MODEL JNC NJF IS=1E-18
.MODEL POUT PMOS KP=200U VTO=-0.7
.MODEL NOUT NMOS KP=200U VTO=0.7
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.MODEL HVP PMOS KP=200U VTO=-0.7
.MODEL HVN NMOS KP=200U VTO=0.7
.MODEL NCN NMOS KP=200U VTO=16.5
.MODEL NCP NMOS KP=200U VTO=36.5
.ENDS
* END MODEL INA195
